### PR TITLE
[Merged by Bors] - feat: port Data.Set.Pointwise.ListOfFn

### PR DESCRIPTION
**Pull request by maxwell-thum**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Data/Set/Pointwise/ListOfFn.lean [hunk 1]
```diff
@@ -0,0 +1,62 @@
...
+theorem mem_prod_list_ofFn {a : α} {s : Fin n → Set α} :
+    a ∈ (List.ofFn s).prod ↔ ∃ f : ∀ i : Fin n, s i, (List.ofFn fun i ↦ (f i : α)).prod = a :=
+  by
+  induction' n with n ih generalizing a
+  · simp_rw [List.ofFn_zero, List.prod_nil, Fin.exists_fin_zero_pi, eq_comm, Set.mem_one]
+  ·
+    simp_rw [List.ofFn_succ, List.prod_cons, Fin.exists_fin_succ_pi, Fin.cons_zero, Fin.cons_succ,
+      mem_mul, @ih, exists_and_left, exists_exists_eq_and, SetCoe.exists, Subtype.coe_mk,
+      exists_prop]
+#align set.mem_prod_list_of_fn Set.mem_prod_list_ofFn
```
Comment (jcommelin) [inline Mathlib/Data/Set/Pointwise/ListOfFn.lean:38]: Please add `#align` statements for the additive versions.

**Review by jcommelin — APPROVED** [review]
Thanks :tada:

bors merge
